US06875781B2
4-(5-Chloro-2-ethoxy-phenyl)-4-p-tolyl-pyridine-2,6-diamine
Following the method described in Example 8, 4-(5-chloro-2-ethoxy-phenyl)-pyridine-2,6-diamine trifluoroacetic acid salt and p-tolylboronic acid provided the title compound (17% yield). 1H NMR (acetone-d6) δ1.35 (t, 3H, J=7.0 Hz, CH3), 2.27 (s, 3H, CH3), 4.08 (q, 2H, J=7.0 Hz, CH2), 5.24 (bs, 2H, NH2), 6.14 (d, 1H, J=1.0 Hz, Ar), 6.32 (t, 1H, J=0.9 Hz, Ar), 7.06-7.10 (m, 3H, Ar), 7.29-7.34 (m, 2H, Ar), 7.51-7.54(m, 2H, Ar), 7.67 (s, 1H, NH).

reactant | 4-(5-chloro-2-ethoxy-phenyl)-pyridine-2,6-diamine trifluoroacetic acid salt | FC(C(=O)O)(F)F.ClC=1C=CC(=C(C1)C1=CC(=NC(=C1)N)N)OCC
reactant | p-tolylboronic acid | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
product | 4-(5-Chloro-2-ethoxy-phenyl)-4-p-tolyl-pyridine-2,6-diamine | 17% yield | ClC=1C=CC(=C(C1)C1(CC(=NC(=C1)N)N)C1=CC=C(C=C1)C)OCC | C20H22ClN3O
